US08138345B2
Preparation of [4-({3-[4-(Biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionyl}methylamino)phenyl]acetic Acid Methyl Ester
A stirred solution of [4-(acryloylmethylamino)phenyl]acetic acid methyl ester (˜22.3 mmol) and biphenyl-2-ylcarbamic acid piperidin-4-yl ester (6.61 g, 22.3 mmol) in EtOH (15.0 mL) was heated at reflux overnight. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel chromatography (0-5% MeOH in DCM) to give the title compound (8.41 g, 71% yield, 2 steps) as a brown sticky solid.

reactant | [4-(acryloylmethylamino)phenyl]acetic acid methyl ester | ˜22.3 mmol | COC(CC1=CC=C(C=C1)NCC(C=C)=O)=O | C13H15NO3
reactant | biphenyl-2-ylcarbamic acid piperidin-4-yl ester | 22.3 mmol, 6.61 g | N1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C18H20N2O2
solvent | EtOH | 15.0 mL | CCO | C2H6O
product | [4-({3-[4-(Biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionyl}methylamino)phenyl]acetic Acid Methyl Ester | 8.41 g, 71% yield | COC(CC1=CC=C(C=C1)NCC(CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)=O)=O | C31H35N3O5
